### PR TITLE
[Merged by Bors] - feature(Analysis/LocallyConvex/AbsConvex): The absolutely convex hull of a totally bounded set is totally bounded

### PR DESCRIPTION
**Pull request by mans0954**
In a locally convex space, the absolutely convex hull of a totally bounded set is totally bounded. The proof given here follows Proposition 3 of Bourbaki TVS II.25.

---

- [x] depends on: #17029

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/LocallyConvex/AbsConvex.lean [hunk 1]
```diff
@@ -70,8 +161,201 @@ theorem nhds_basis_abs_convex_open :
...
+variable (E 𝕜) {s : Set E}
+variable [NontriviallyNormedField 𝕜]  [Module 𝕜 E]
+variable [SMulCommClass ℝ 𝕜 E]
+variable [TopologicalSpace E] [TopologicalAddGroup E]  [lcs : LocallyConvexSpace ℝ E]
+  [ContinuousSMul ℝ E]
+
+-- TVS II.25 Prop3
+theorem totallyBounded_absConvexHull
+    (hs : TotallyBounded (uniformSpace := TopologicalAddGroup.toUniformSpace E) s) :
+    TotallyBounded (uniformSpace := TopologicalAddGroup.toUniformSpace E) (absConvexHull ℝ s) := by
```
Comment (ADedecker) [inline Mathlib/Analysis/LocallyConvex/AbsConvex.lean:287]: The better way to state this would be to assume `[UniformSpace E] [UniformAddGroup E]`. It feels a bit weird from the math point of view since the uniformity comes from the topology, but in many case it won't be defeq to `TopologicalAddGroup.toUniformSpace` (e.g your current lemma does not apply to normed spaces !). And it avoids a bunch of troubles in the proof.

Comment (ADedecker) [reply Mathlib/Analysis/LocallyConvex/AbsConvex.lean:287]: Another thing : I think I would rather first state the result about the convex hull, and then use `convexHull_union_neg_eq_absConvexHull` to deduce the current result. I know Bourbaki does it the other way around (after all, what you wrote is stronger), but since we will have to *state* the convex hull statement anyway (which they don't !) I think we might as well split up the proof.
But of course this is a matter of taste

File: Mathlib/Analysis/LocallyConvex/AbsConvex.lean [hunk 2]
```diff
@@ -70,8 +161,201 @@ theorem nhds_basis_abs_convex_open :
...
+  intro d' hd'
```
Comment (ADedecker) [inline Mathlib/Analysis/LocallyConvex/AbsConvex.lean:288]: Have you tried using [totallyBounded_iff_subset_finite_iUnion_nhds_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/UniformGroup.html#totallyBounded_iff_subset_finite_iUnion_nhds_zero) ? I think it will make your life way easier.

File: Mathlib/Analysis/LocallyConvex/AbsConvex.lean [hunk 3]
```diff
@@ -70,8 +161,201 @@ theorem nhds_basis_abs_convex_open :
...
+      ((convexHull ℝ) (t ∪ -t)) := IsCompact.totallyBounded
+        (Set.Finite.isCompact_convexHull (finite_union.mpr ⟨htf,Finite.neg htf⟩))
+  obtain ⟨t',⟨htf',hts'⟩⟩ := e6 d₂ (by
+    rw [uniformity_eq_comap_nhds_zero']
+    aesop
+  )
+  rw [e2] at hts'
+  have e7: (absConvexHull ℝ) s ⊆ t' + (2 : ℝ) • V := by
+    rw [← add_self_eq_smul_two hS₂.2, ← add_assoc]
+    exact le_trans e4 (Set.add_subset_add_right hts')
```
Comment (ADedecker) [inline Mathlib/Analysis/LocallyConvex/AbsConvex.lean:327]: I think you'd make your life easier by just using `V + V` directly. Of course both are equal, but introducing smul here can only cause harm I think.

Comment (mans0954) [reply Mathlib/Analysis/LocallyConvex/AbsConvex.lean]: Thanks - that's much better - in fact gives us a more general result for `V+W`.

File: Mathlib/Analysis/LocallyConvex/AbsConvex.lean (hunk 1 above)
Comment (mans0954) [reply Mathlib/Analysis/LocallyConvex/AbsConvex.lean]: > The better way to state this would be to assume `[UniformSpace E] [UniformAddGroup E]`

@ADedecker Do I also need a hypothesis `(h : U = TopologicalAddGroup.toUniformSpace E)` to connect the uniformity to the locally convex topology?

Comment (mans0954) [reply Mathlib/Analysis/LocallyConvex/AbsConvex.lean]: Ah, I can use `UniformAddGroup.toUniformSpace_eq`

File: Mathlib/Analysis/LocallyConvex/AbsConvex.lean (hunk 2 above)
Comment (mans0954) [reply Mathlib/Analysis/LocallyConvex/AbsConvex.lean:265]: What would the equivalent of `comp_mem_uniformity_sets` be for a Uniform Group?

Comment (mans0954) [reply Mathlib/Analysis/LocallyConvex/AbsConvex.lean:265]: `exists_closed_nhds_zero_neg_eq_add_subset` I guess?

Comment (mans0954) [reply Mathlib/Analysis/LocallyConvex/AbsConvex.lean]: @ADedecker thanks - this suggestion was a big improvement.

File: Mathlib/Analysis/LocallyConvex/AbsConvex.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/Analysis/LocallyConvex/AbsConvex.lean]: Sorry for the delay. Yes, you can use that, but it sounds a bit weird that you have to use it, let me have a look.

Comment (ADedecker) [reply Mathlib/Analysis/LocallyConvex/AbsConvex.lean]: Well indeed you don't use it in the current version!

Comment (mans0954) [reply Mathlib/Analysis/LocallyConvex/AbsConvex.lean]: @ADedecker yes - originally I added `[UniformSpace E]` and `[UniformAddGroup E]` without removing `[TopologicalSpace E]` and `[TopologicalAddGroup E]`. Removing `[TopologicalSpace E]` and `[TopologicalAddGroup E]` resolved the issue.

Comment (mans0954) [reply Mathlib/Analysis/LocallyConvex/AbsConvex.lean]: > I think I would rather first state the result about the convex hull, and then use `convexHull_union_neg_eq_absConvexHull` to deduce the current result.

I have done this now.

File: Mathlib/Analysis/Convex/TotallyBounded.lean [hunk 4]
```diff
@@ -0,0 +1,54 @@
...
+  simp_rw [en]
+  rw [en] at hts'
+  rw [en] at hts
+  exact ⟨htf', subset_trans (by
+    rw [← add_assoc]
+    apply le_trans (by
+      rw [ ← Convex.convexHull_eq hV₂]
+      exact le_trans (convexHull_mono hts) (convexHull_add_subset)
+    ) (add_subset_add_right hts'))
+    (add_subset_add_left (subset_trans (add_subset_add hV₃ hV₃) (add_subset_iff.mpr hW₂)))⟩
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/TotallyBounded.lean:54]:
```suggestion
  use t', htf'
  simp only [iUnion_vadd_set, vadd_eq_add] at hts hts' ⊢
  calc convexHull ℝ s
    _ ⊆ convexHull ℝ (t + V) := convexHull_mono hts
    _ ⊆ convexHull ℝ t + convexHull ℝ V := convexHull_add_subset
    _ = convexHull ℝ t + V := by rw [hV₂.convexHull_eq]
    _ ⊆ t' + V + V := add_subset_add_right hts'
    _ = t' + (V + V) := by rw [add_assoc]
    _ ⊆ t' + (W + W) := add_subset_add_left (add_subset_add hV₃ hV₃)
    _ ⊆ t' + U := add_subset_add_left (add_subset_iff.mpr hW₂)
```

**Review by ADedecker — APPROVED** [review]
Thanks, and sorry for the delay!

bors d+
